US09108938B2
2,3-dichloro-N-(2-(4-chlorophenyl)-2-(1,4-oxazepan-4-yl)ethyl)benzamide
From 2,3-dichlorobenzoic acid and 2-(4-chlorophenyl)-2-(1,4-oxazepan-4-yl)ethanamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(4-chlorophenyl)-2-(1,4-oxazepan-4-yl)ethanamine | ClC1=CC=C(C=C1)C(CN)N1CCOCCC1 | C13H19ClN2O
product | 2,3-dichloro-N-(2-(4-chlorophenyl)-2-(1,4-oxazepan-4-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(N2CCOCCC2)C2=CC=C(C=C2)Cl)C=CC=C1Cl | C20H21Cl3N2O2
